US06630600B1
3-(4-Benzyloxy-3-methoxyphenyl)-2-ethoxyacrylic acid ethyl ester (5.5 g, 15.4 mmole) was dissolved in ethyl acetate and hydrogenated using Pd/C (dry, 5%). The reaction mixture was filtered through celite. Evaporation of the filtrate gave 4 g (97% yield) of 3-(4-benzyloxy-3-methoxyphenyl)-2-ethoxypropanoic acid ethyl ester.

reactant | 3-(4-Benzyloxy-3-methoxyphenyl)-2-ethoxyacrylic acid ethyl ester | 15.4 mmole, 5.5 g | C(C)OC(C(=CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)OCC)=O | C21H24O5
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | 3-(4-benzyloxy-3-methoxyphenyl)-2-ethoxypropanoic acid ethyl ester | 4 g, 97% yield | C(C)OC(C(CC1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)OCC)=O | C21H26O5
